US06339045B1
Production of N-(i-propyl)-4-{methyl(phenylmethyl)amino}-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide (compound No. I-58)
2.22 g (0.0051 mol) of 2-bromo-4-{methyl(phenylmethyl)amino}-6-{3-(trifluoromethyl)phenoxy} pyridine was suspended in about 30 ml of diethyl ether. While cooling the obtained suspension in a dry ice-acetone bath in an argon atmosphere, 3.4 ml of a 1.65M-hexane solution of BuLi (0.0051×1.1 mol) was added thereto, followed by stirring the suspension for about 10 minutes. After 0.86 g (0.0051×2.0 mol) of isopropyl isocyanate dissolved in about 10 ml of diethyl ether was added to the reaction solution, the obtained solution was removed from the bath and stirred at room temperature for about one hour. The reaction solution was mixed with about 10 ml of a 1N-hydrochloric acid aqueous solution, and then distributed in ethyl acetate-saturated sodium bicarbonate water, followed by washing with saturated brine. The organic phase of the obtained solution was dried with anhydrous sodium sulfate, concentrated and purified by silica gel column chromatography (eluting solution: ethyl acetate/hexane), thereby obtaining an aimed product.

reactant | 2-bromo-4-{methyl(phenylmethyl)amino}-6-{3-(trifluoromethyl)phenoxy} pyridine | 0.0051 mol, 2.22 g | BrC1=NC(=CC(=C1)N(CC1=CC=CC=C1)C)OC1=CC(=CC=C1)C(F)(F)F | C20H16BrF3N2O
reactant | hexane | CCCCCC | C6H14
reactant | BuLi | 1.1 mol | [Li]CCCC
reactant | isopropyl isocyanate | 2.0 mol, 0.86 g | C(C)(C)N=C=O | C4H7NO
solvent | diethyl ether | about 30 ml | C(C)OCC | C4H10O
solvent | diethyl ether | about 10 ml | C(C)OCC | C4H10O
product | N-(i-propyl)-4-{methyl(phenylmethyl)amino}-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide | C(C)(C)NC(=O)C1=NC(=CC(=C1)N(CC1=CC=CC=C1)C)OC1=CC(=CC=C1)C(F)(F)F | C24H24F3N3O2
